US07696223B2
a) 2-tert-Butyl-4-cyano-7-hydroxy-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester
A solution of 4-bromo-2-tert-butyl-7-hydroxy-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester (100 mg, 0.28 mmol), tris(dibenzylideneacetone)dipalladium(0)(13 mg, 0.014 mmol), 1,1′-bis(diphenylphosphino) ferrocene (15 mg, 0.028 mmol), zinc dust (2 mg, 0.033 mmol), and zinc cyanide (20 mg, 0.168 mmol) in 0.56 mL of dimethylacetamide was heated at 115° C. for 5 h under a nitrogen atmosphere. The mixture was cooled, diluted with ethyl acetate and saturated aqueous ammonium chloride and filtered through a celite pad. The organic fraction was isolated and washed with brine, dried over anhydrous sodium sulfate, and concentrated to a crude residue. The crude material was purified by column chromatography, eluting the desired product from silica gel with a gradient of 10-60% ethyl acetate in hexanes to give 61 mg of the title compound. MS (ESI−): m/z 304.1 (M−1).

reactant | 4-bromo-2-tert-butyl-7-hydroxy-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | 0.28 mmol, 100 mg | C(C)OC(=O)C1=C(C2=C(C(=N1)Br)N=C(S2)C(C)(C)C)O | C13H15BrN2O3S
reactant | dimethylacetamide | 0.56 mL | CC(=O)N(C)C | C4H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ammonium chloride | [Cl-].[NH4+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.014 mmol, 13 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 1,1′-bis(diphenylphosphino) ferrocene | 0.028 mmol, 15 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | zinc | 0.033 mmol, 2 mg | [Zn] | Zn
catalyst | zinc cyanide | 0.168 mmol, 20 mg | [C-]#N.[Zn+2].[C-]#N
product | 2-tert-Butyl-4-cyano-7-hydroxy-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | 61 mg | C(C)OC(=O)C1=C(C2=C(C(=N1)C#N)N=C(S2)C(C)(C)C)O | C14H15N3O3S
